US07897603B2
A1a) tert.butyl 4-cyano-[1,4′]bipiperidinyl-1′-carboxylate
6.09 g (27.3 mmol) of NaBH(OAc)3 were added batchwise to a suspension, cooled to 0° C., of 5.44 g (27.3 mmol) tert.butyl 4-oxo-piperidin-1-carboxylate, 3.00 g (27.2 mmol) 4-cyanopiperidine and 1.6 mL (28.0 mmol) AcOH in 400 mL DCM and the reaction mixture was stirred overnight, while warming up to RT. 400 mL water were added and the mixture was acidified with citric acid. The organic phase was separated off, the aqueous phase was made alkaline with saturated NaHCO3 solution and extracted exhaustively with DCM. The combined organic phases were concentrated by evaporation i. vac. and the residue was crystallised with a little DIPE.

reactant | NaBH(OAc)3 | 27.3 mmol, 6.09 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert.butyl 4-oxo-piperidin-1-carboxylate | 27.3 mmol, 5.44 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | 4-cyanopiperidine | 27.2 mmol, 3.00 g | C(#N)C1CCNCC1 | C6H10N2
reactant | AcOH | 28.0 mmol, 1.6 mL | CC(=O)O | C2H4O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | water | 400 mL | O | H2O
product | tert.butyl 4-cyano-[1,4′]bipiperidinyl-1′-carboxylate | C(#N)C1CCN(CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C16H27N3O2
